US08258141B2
Step 9: 9-((1R,2S,3R,4S)-2,3-Dihydroxy-4-propionylamino-cyclopentyl)-6-(2,2-diphenyl-ethylamino)-9H-purine-2-carboxylic acid (2-methanesulfonylamino-ethyl)-amide
A solution of 9-((1R,2S,3R,4S)-2,3-dihydroxy-4-propionylamino-cyclopentyl)-6-(2,2-diphenyl-ethylamino)-9H-purine-2-carboxylic acid (2-amino-ethyl)-amide (0.01 g, 0.017 mmol) in chloroform (1 ml) is treated with mesyl chloride (1 ml of a 3 mg/ml solution in chloroform) and TEA (0.003 ml). After stirring at 5° C. for 1 hour, the reaction mixture is diluted with DCM and extracted with 1 M HCl. The organic portion is isolated and concentrated in vacuo to yield the title product. (MH+ 651.5)

reactant | 9-((1R,2S,3R,4S)-2,3-dihydroxy-4-propionylamino-cyclopentyl)-6-(2,2-diphenyl-ethylamino)-9H-purine-2-carboxylic acid (2-amino-ethyl)-amide | 0.017 mmol, 0.01 g | NCCNC(=O)C1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)NC(CC)=O)O)O)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C30H36N8O4
reactant | mesyl chloride | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | chloroform | 1 ml | C(Cl)(Cl)Cl | CHCl3
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 9-((1R,2S,3R,4S)-2,3-Dihydroxy-4-propionylamino-cyclopentyl)-6-(2,2-diphenyl-ethylamino)-9H-purine-2-carboxylic acid (2-methanesulfonylamino-ethyl)-amide | CS(=O)(=O)NCCNC(=O)C1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)NC(CC)=O)O)O)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C31H38N8O6S
